US04983596
Under nitrogen atmosphere at -70° C., to a solution of oxalyl chloride (4.31 ml) in dichloromethane (200 ml) were added dropwise dimethyl sulfoxide (7.01 ml), a solution of (2S,4R)-1-benzyloxycarbonyl-2-(2-hydroxyethyloxymethyl)-4-methanesulfonyloxypyrrolidine (17.57 g) in dichloromethane (50 ml) and triethylamine (37.8 ml). The reaction mixture was stirred at the same temperature for 2 hours and then allowed to warm to ambient temperature. Precipitate was filtered off and to the filtrate was added a mixture of ethyl acetate (200 ml) and water (100 ml). The organic layer was separated, washed with brine (100 ml), dried over magnesium sulfate and active carbon was added thereto. Evaporation of the solvent gave a residue, which was chromatographed on silica gel (500 ml) eluting with a mixture of dichloromethane and methanol (9:1 V/V) to give (2S,4R)-1-benzyloxycarbonyl-2-(2-oxoethyl)oxymethyl-4-methanesulfonyloxypyrrolidine (15.7 g).

reactant | oxalyl chloride | 4.31 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 7.01 ml | CS(=O)C | C2H6OS
reactant | (2S,4R)-1-benzyloxycarbonyl-2-(2-hydroxyethyloxymethyl)-4-methanesulfonyloxypyrrolidine | 17.57 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)COCCO | C16H23NO7S
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | triethylamine | 37.8 ml | C(C)N(CC)CC | C6H15N
product | (2S,4R)-1-benzyloxycarbonyl-2-(2-oxoethyl)oxymethyl-4-methanesulfonyloxypyrrolidine | 15.7 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)COCC=O | C16H21NO7S
